US07820673B2
5a) methyl(2R)-4-((4-chlorophenyl)amino)-2-cyclohexyl-4-oxobutanoate
To a suspension of (3R)-3-cyclohexyl-4-methoxy-4-oxobutanoic acid (0.21 g), 4-chloroaniline (0.13 g) and HOBt (0.23 g) in acetonitrile (10 ml) were added WSC (0.29 g) and N-methylmorpholine (0.10 g), and mixed at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed sequentially with an aqueous sodium hydrogen carbonate solution, water, a 5% aqueous citric acid solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound as a pale brown solid (0.30 g, 93%).

reactant | (3R)-3-cyclohexyl-4-methoxy-4-oxobutanoic acid | 0.21 g | C1(CCCCC1)[C@@H](CC(=O)O)C(=O)OC | C11H18O4
reactant | 4-chloroaniline | 0.13 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | HOBt | 0.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.29 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-methylmorpholine | 0.10 g | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl(2R)-4-((4-chlorophenyl)amino)-2-cyclohexyl-4-oxobutanoate | 0.30 g, 93% | ClC1=CC=C(C=C1)NC(C[C@@H](C(=O)OC)C1CCCCC1)=O | C17H22ClNO3
